US07625893B2
i) 1-Benzyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-3-(R,S) -trityloxymethyl-piperidin-4-(R,S)-ol
2.32 mmol of 1,2-dibromoethane are added to a suspension of 156.518 mmol of magnesium in 20 ml of tetrahydrofuran under argon at room temperature. The reaction mixture is warmed until the magnesium starts to react and then 3 ml of a solution of 151.509 mmol of 1-bromo-4-((S)-3-methoxy-2-methyl-propoxymethyl)-benzene in 170 ml of tetrahydrofuran, followed by the rest of the solution, is added while maintaining a gentle reflux. After 2 hours, the reaction mixture is cooled to room temperature and then a solution of 125.214 mmol of 1-benzyl-3-trityloxymethyl -piperidin-4-one [234757-27-8] in 170 ml of tetrahydrofuran is slowly added, taking care to keep the internal reaction temperature under 40° C. After overnight stirring at room temperature, the reaction mixture is quenched with saturated aqueous ammonium chloride solution. Ethyl acetate is added to the reaction mixture and the phases separated—the organic phase is washed successively with water and brine. The combined aqueous phases are back-extracted with ethyl acetate—the combined organic phases are dried with sodium sulfate and evaporated. The residue is purified by flash chromatography (SiO2 60F) to afford the title compound as a yellow oil. Rf=0.30 (EtOAc-heptane-25% ammonia conc. 100:100:1); Rt=5.43 (gradient I).

reactant | 1,2-dibromoethane | 2.32 mmol | BrCCBr | C2H4Br2
reactant | magnesium | 156.518 mmol | [Mg] | Mg
reactant | 1-bromo-4-((S)-3-methoxy-2-methyl-propoxymethyl)-benzene | 151.509 mmol | BrC1=CC=C(C=C1)COC[C@H](COC)C | C12H17BrO2
reactant | 1-benzyl-3-trityloxymethyl -piperidin-4-one | 125.214 mmol | C(C1=CC=CC=C1)N1CC(C(CC1)=O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H31NO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-3-(R,S) -trityloxymethyl-piperidin-4-(R,S)-ol | C(C1=CC=CC=C1)N1CC(C(CC1)(O)C1=CC=C(C=C1)COC[C@H](COC)C)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H49NO4
